US08937083B2
To a solution of methyl-(2-methyl-5-pyridin-3-yl-2H-pyrazol-3-yl)-amine (150 mg, 0.8 mmol) under N2 in ice-cold dichloroethane (DCE; 2 mL) was added dropwise via pipette a solution of 2-methyl-3-methylsulfanyl-propionylchloride (146 mg, 0.9 mmol) in DCE (1.5 mL). After stirring for 10 minutes (min), a solution of 4-N,N-dimethylaminopyridine (DMAP; 107 mg, 0.9 mmol) in DCE (2 mL) was added dropwise. The ice bath was removed after 30 min, and the mixture was stirred at room temperature for 90 min and then at reflux for 14 h. The mixture was concentrated under reduced pressure and was purified by silica gel chromatography eluting with a gradient of EtOAc in hexane. The product, 2,N-dimethyl-N-(2-methyl-5-pyridin-3-yl-2H-pyrazol-3-yl)-3-methylsulfanyl-propionamide, was isolated as a yellow semi-solid (44 mg, 24%): 1H NMR (400 MHz, CDCl3) δ 9.00 (s, 1H), 8.58 (s, 1H), 8.08 (br d, J=7.0 Hz, 1H), 7.35 (br dd, J=7.3, 4.8 Hz, 1H), 6.58 (br s, 0.5H), 6.49 (br s, 0.5H), 3.89-3.79 (m, 3H), 3.25 (s, 3H), 2.96-2.80 (m, 1H), 2.42-2.40 (m, 1H), 2.02-1.99 (m, 3H), 2.62 (m, 1H), 1.15 (d, J=6.0 Hz, 3H); MS (m/z) 305.0 [M+1].

reactant | methyl-(2-methyl-5-pyridin-3-yl-2H-pyrazol-3-yl)-amine | 0.8 mmol, 150 mg | CNC=1N(N=C(C1)C=1C=NC=CC1)C | C10H12N4
reactant | 2-methyl-3-methylsulfanyl-propionylchloride | 0.9 mmol, 146 mg | CC(C(=O)Cl)CSC | C5H9ClOS
solvent | DCE | 1.5 mL | ClC(C)Cl | C2H4Cl2
solvent | DCE | 2 mL | ClC(C)Cl | C2H4Cl2
product | 2,N-dimethyl-N-(2-methyl-5-pyridin-3-yl-2H-pyrazol-3-yl)-3-methylsulfanyl-propionamide | CC(C(=O)N(C=1N(N=C(C1)C=1C=NC=CC1)C)C)CSC | C15H20N4OS
